US06576626B2
To a solution of diisopropylamine (2.5 mL, 14.5 mmol, 3.5 eq) in THF (30 mL) at −10° C. was added dropwise (about 10 minutes) n-BuLi (1.4 M in hexanes, 9.0 mL, 14.5 mmol). After 10 minutes, the reaction was cooled to −78° C., and a solution of ethyl (fluoromethyl)(1,1-diethoxyethyl)phosphinate (2.0 g, 8.26 mmol, 2 eq) in THF (10 mL) was added dropwise over 10 minutes. After the addition the reaction mixture was stirred at −78° C. for 1 h. A solution of N-Boc-glycine methyl ester (0.8 g, 4.1 mmol) in THF (10 mL) was added dropwise over 10 minutes such that the internal temperature was maintained below −70° C. After the addition was complete the reaction was stirred at −78° C. for 1 h. The reaction was quenched with acetic acid (1 mL, 14.5 mmol) and then warmed to room temperature. Saturated aqueous sodium chloride (75 mL) was added to the reaction and the organic phase separated. The aqueous phase was then extracted with ethyl acetate (2×75 mL). The combined organic phase was dried over anhydrous sodium sulfate and concentrated under reduced pressure affording the crude product as a pale yellow oil (2.69 g). The crude product was purified by column chromatography (2×35 cm column), eluting with 40% ethyl acetate in hexane. This method afforded ethyl (3-(N-(tert-butoxycarbonyl)amino)-1-fluoro-2-oxopropyl)(1,1-diethoxyethyl)phosphinate as a clear colorless oil (0.73 g, 44%). 1H NMR (300 MHz, CDCl3) δ5.78-5.24 (m, 2H), 4.52-4.08 (m, 4H), 3.94-3.50 (m, 4H), 1.62-1.51 (m, 3H), 1.50-1.32 (m, 3H), 1.42 (s, 9H), 1.30-1.12 (m, 6H).

reactant | diisopropylamine | 14.5 mmol, 2.5 mL, 3.5 eq | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 14.5 mmol, 1.4 M, 9.0 mL | [Li]CCCC
reactant | ethyl (fluoromethyl)(1,1-diethoxyethyl)phosphinate | 8.26 mmol, 2.0 g, 2 eq | FCP(OCC)(=O)C(C)(OCC)OCC | C9H20FO4P
reactant | N-Boc-glycine methyl ester | 4.1 mmol, 0.8 g | COC(CNC(=O)OC(C)(C)C)=O | C8H15NO4
reactant | acetic acid | 14.5 mmol, 1 mL | C(C)(=O)O | C2H4O2
reactant | sodium chloride | 75 mL | [Cl-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl (3-(N-(tert-butoxycarbonyl)amino)-1-fluoro-2-oxopropyl)(1,1-diethoxyethyl)phosphinate | 0.73 g, 44% | C(C)(C)(C)OC(=O)NCC(C(F)P(OCC)(=O)C(C)(OCC)OCC)=O | C16H31FNO7P
